US06998412B2
Diethyl 3-{[5-methyl-2-(p-tolyl)oxazol-4-yl]methyl}benzylmalonate
To 15 ml of dry tetrahydrofuran and 7 ml of dry N,N-dimethylformamide, 0.88 g of 60% sodium hydride was added. To the mixture was added dropwise 4.40 g of diethyl malonate with stirring under ice-cooling. After 15-minute-stirring, a solution of 3.93 g of 3-{[5-methyl-2-(p-tolyl)oxazol-4-yl]methyl}benzyl bromide/5 ml of dry tetrahydrofuran was added and stirred for 1 hour under ice-cooling. The reaction solution was poured into ice-cold water, extracted with ethyl acetate, washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (Wakogel® C-200, n-hexane:ethyl acetate=5:1) to provide 3.95 g of the objective compound as colorless crystals.

reactant | sodium hydride | 0.88 g | [H-].[Na+]
reactant | diethyl malonate | 4.40 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 3-{[5-methyl-2-(p-tolyl)oxazol-4-yl]methyl}benzyl bromide | 5 ml, 3.93 g | CC1=C(N=C(O1)C1=CC=C(C=C1)C)CC=1C=C(CBr)C=CC1 | C19H18BrNO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | Diethyl 3-{[5-methyl-2-(p-tolyl)oxazol-4-yl]methyl}benzylmalonate | 3.95 g | CC1=C(N=C(O1)C1=CC=C(C=C1)C)CC=1C=C(CC(C(=O)OCC)C(=O)OCC)C=CC1 | C26H29NO5
